US07829707B2
(b) 1-(3-Chlorophenyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Benzoyl isothiocyanate (0.035 g, 0.22 mmol) in CH2Cl2 (0.5 mL) was added to ethyl 3-[(3-chlorophenyl)amino]-1H-pyrrole-2-carboxylate (0.052 g, 0.20 mmol) in CH2Cl2 (0.5 mL). The mixture was stirred at r.t. overnight. Additional benzoyl isothiocyanate (0.035 g+0.035 g+0.035 g) were added over 6 h and the reaction was continued stirring at 50° C. for 3 days. The solvent was removed in vacuo and the residue was dissolved in ammonia (7N in methanol, 4 mL). The reaction was heated at 50° C. for 2 h. The crude product was purified by preparative chromatography, obtaining 0.009 g (15%) of the title compound as a solid.

reactant | Benzoyl isothiocyanate | 0.22 mmol, 0.035 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | ethyl 3-[(3-chlorophenyl)amino]-1H-pyrrole-2-carboxylate | 0.20 mmol, 0.052 g | ClC=1C=C(C=CC1)NC1=C(NC=C1)C(=O)OCC | C13H13ClN2O2
reactant | benzoyl isothiocyanate | 0.035 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Chlorophenyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.009 g, 15% | ClC=1C=C(C=CC1)N1C(NC(C2=C1C=CN2)=O)=S | C12H8ClN3OS
